US08466193B2
To a solution of 1H-pyrrole-2-carbaldehyde (0.45 g, 4.8 mmol) and 1-(2-bromoethoxy)benzene (1.1 g, 5.3 mmol) in DMF (20 mL) was added K2CO3 (3.3 g, 24 mmol). After stirring 16 hr at room temperature, the mixture was diluted with ethyl acetate (200 mL) and washed with H2O (2×100 mL) then brine (100 mL). The organic layer was dried (MgSO4), filtered and then concentrated to provide 1.1 g (˜100%) of crude 1-(2-phenoxyethyl)-1H-pyrrole-2-carbaldehyde as a light yellow oil.

reactant | 1H-pyrrole-2-carbaldehyde | 4.8 mmol, 0.45 g | N1C(=CC=C1)C=O | C5H5NO
reactant | 1-(2-bromoethoxy)benzene | 5.3 mmol, 1.1 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | K2CO3 | 24 mmol, 3.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-phenoxyethyl)-1H-pyrrole-2-carbaldehyde | 1.1 g, ~100% | O(C1=CC=CC=C1)CCN1C(=CC=C1)C=O | C13H13NO2
